US04560692
(b) 1-[6-Fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxylic acid
From 6.0 g of 1-[6-fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester and 10 ml of 3N sodium hydroxide, treated in a manner similar to that described in Example 1C, there was obtained 5.6 g of product as yellow needles, mp 255°-260° dec.

reactant | 1-[6-fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester | 6.0 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=NC2=CC=C(C=C12)F)C1=CC=CC=C1 | C23H23FN2O2
solvent | sodium hydroxide | 3N, 10 ml | [OH-].[Na+]
product | 1-[6-Fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarboxylic acid | 5.6 g | FC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C21H19FN2O2
